US09315502B2
Intermediate H: 6-Bromo-3-pyridin-4-yl-imidazo[1,2-a]pyridine
The title compound, off-white solid (0.27 g, 45%), MS (ISP) m/z=274.4 [(M+H)+], mp 134° C., was prepared in accordance with the general method of intermediate E from commercially available 6-bromo-3-iodoimidazo[1,2-a]pyridine (0.7 g, 2.17 mmol) and commercially available pyridine-4-ylboronic acid (0.27 g, 2.17 mmol).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | 2.17 mmol, 0.7 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | pyridine-4-ylboronic acid | 2.17 mmol, 0.27 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 6-Bromo-3-pyridin-4-yl-imidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)C2=CC=NC=C2 | C12H8BrN3
